US04665079
A mixture of 22.50 g (83.03 mmole) 1-ethyl-1,4-dihydro-4-oxo-6,7,8-trifluoro-3-quinolinecarboxylic acid, 225 ml acetonitrile, 11.25 g (87.08 mmole) N-ethyl-3-pyrrolidinemethanamine and 12.6 g (83.03 mmole) 1,8-diazabicyclo[5.4.0]undec-7-ene was refluxed 1 hour then was stirred at room temperature overnight. The solid was filtered and washed with ether to give 26.33 g of 1-ethyl-7-[3-(ethylamino)-methyl]-1-pyrrolidinyl]-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, mp 208°-210° C.

reactant | 1-ethyl-1,4-dihydro-4-oxo-6,7,8-trifluoro-3-quinolinecarboxylic acid | 83.03 mmole, 22.50 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
reactant | N-ethyl-3-pyrrolidinemethanamine | 87.08 mmole, 11.25 g | C(C)NCC1CNCC1 | C7H16N2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 83.03 mmole, 12.6 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 225 ml | C(C)#N | C2H3N
product | 6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | FC=1C=C2C(C(=CNC2=C(C1)F)C(=O)O)=O | C10H5F2NO3
